US07423150B2
A flask was flame dried and placed under a nitrogen atmosphere. 1-methylpiperidine-4-carbonyl chloride (1 eq) in anhydrous methylene chloride was added to the flask and brought to 0° C. To this was added the solution containing 4-chloropyridin-2-amine (1 eq), and diisopropylethylamine (5 eq) in anhydrous methylene chloride, which was stirred for 1 hour at 0° C. Reaction concentrated and partitioned between water and ethyl acetate. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated to give the crude product. Purification on silica gel, 10% methanol in methylene chloride to yield N-(4-chloropyridin-2-yl)-1-methylpiperidine-4-carboxamide as a slightly yellow crystal solid. HPLC=2.39 min; MS: MH+=254.

reactant | 1-methylpiperidine-4-carbonyl chloride | 1 eq | CN1CCC(CC1)C(=O)Cl | C7H12ClNO
reactant | 4-chloropyridin-2-amine | 1 eq | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | diisopropylethylamine | 5 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-chloropyridin-2-yl)-1-methylpiperidine-4-carboxamide | ClC1=CC(=NC=C1)NC(=O)C1CCN(CC1)C | C12H16ClN3O
